US06235731B1
1) Synthesis of 1-tert-butoxycarbonyl-1′-(3-phenylpropan-1-yl)-4,4′-bipiperidine
To a solution of 10.98 g (45.52 mM) of 4,4′-bi-piperidine and 9.06 g (45.5 mM) of 1-bromo-3-phenylpropane in 150 ml of ethanol was added 18.9 g (137 mM) of potassium carbonate and the mixture was stirred at room temperature for one day. This reaction mixture was filtered and the solvent was removed from the filtrate under reduced pressure. The residue was dissolved in 100 ml of tetrahydrofuran, and after 11.9 g (54.6 mM) of di-tert-butyl dicarbonate was added, the mixture was stirred at room temperature for 6 hours. This reaction mixture was poured in aqueous solution of sodium hydroxide and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1 ethyl acetate) to provide the title compound.

reactant | 4,4′-bi-piperidine | 45.52 mM, 10.98 g | N1CCC(CC1)C1CCNCC1 | C10H20N2
reactant | 1-bromo-3-phenylpropane | 45.5 mM, 9.06 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 137 mM, 18.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-tert-butoxycarbonyl-1′-(3-phenylpropan-1-yl)-4,4′-bipiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)CCCC1=CC=CC=C1 | C24H38N2O2
